US08202858B2
4-{3-[2-Fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperazine-1-carboxylic Acid Tert-butyl Ester
A solution of 4-[3-(4-carboxy-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester from Example E39 (865 mg, 2.3 mmol) in dichloromethane (50 ml) was treated with triethylamine (to pH9), WSCD (865 mg, 4.5 mmol) and DMAP (276 mg, 2.3 mmol), and the mixture was stirred at room temperature for 10 min. 3-Methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene from Example E11 (541 mg, 2.7 mmol) was added. The mixture was heated at reflux for 18 h then concentrated in vacuo. The residue was dissolved in EtOAc, washed with saturated NaHCO3 then brine and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 10% methanol:90% dichloromethane) to yield the title compound (615 mg, 48%).

reactant | 4-[3-(4-carboxy-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)O)F | C19H27FN2O5
reactant | triethylamine | pH9 | C(C)N(CC)CC | C6H15N
reactant | 3-Methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene | CN1N=CC=2CNC3=C(NC12)C=CC=C3 | C11H12N4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | DMAP | 2.3 mmol, 276 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-{3-[2-Fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperazine-1-carboxylic Acid Tert-butyl Ester | 615 mg, 48% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)F | C30H37FN6O4
